US20010020089A1
6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide
A solution of (2R,3R,4R,5S)-4-(benzoyloxy)-2-[6-[(2,2-diphenylethyl )amino]-2-({[2-(1-piperid inyl)-ethyl]amino}carbonyl)-9H-purin-9-yl]-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (Preparation 7) (104 mg, 0.12 mmol) in methanol (3 ml) was treated with potassium carbonate (100 mg, 0.72 mmol). The mixture was stirred at room temperature for 30 minutes. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was separated, dried with anhydrous magnesium sulphate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane: methanol (90:10 by volume) to afford the title compound as a white solid (44 mg).

reactant | (2R,3R,4R,5S)-4-(benzoyloxy)-2-[6-[(2,2-diphenylethyl )amino]-2-({[2-(1-piperid inyl)-ethyl]amino}carbonyl)-9H-purin-9-yl]-5-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 0.12 mmol, 104 mg | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NCCN1CCCCC1 | C48H50N8O7
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 3 ml | CO | CH4O
product | 6-[(2,2-Diphenylethyl)amino]-9-{(2R,3R,4S,5S)-5-[(ethylamino)carbonyl]-3,4-dihydroxytetrahydro-2-furanyl}-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide | 44 mg | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)C(=O)NCCN1CCCCC1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C(=O)NCC)C1=CC=CC=C1 | C34H42N8O5
